US06297259B1
N-Methyl-N-(4-(4-(1-(2-(morpholin-4-yl)ethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-3,4,5-trimethoxybenzamide
Combine N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-3,4,5-trimethoxybenzamide (0.70 mmol) and 4-(2-chloroethyl)morpholine hydrochloride (0.84 mmol), and potassium carbonate (3.36 mmol) in acetone (10 mL), water (4 mL), and dichloromethane (5 mL). Heat to reflux. After 20 hours, cool to ambient temperature and concentrate the reaction mixture invacuo and dilute with ethyl acetate. Extract with saturated aqueous ammonium chloride solution, water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution. Dry the organic layer over MgSO., filter, and concentrate invacuo to give the title compound.

reactant | N-methyl-N-(4-(4-(1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-3,4,5-trimethoxybenzamide | 0.70 mmol | CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2)C2=CC(=C(C=C2)Cl)Cl | C34H38Cl2N4O5
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 0.84 mmol | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 3.36 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 4 mL | O | H2O
product | N-Methyl-N-(4-(4-(1-(2-(morpholin-4-yl)ethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-(3,4-dichlorophenyl)butyl)-3,4,5-trimethoxybenzamide | CN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CCN1CCOCC1)C=CC=C2)C2=CC(=C(C=C2)Cl)Cl | C40H49Cl2N5O6
